### PR TITLE
[Merged by Bors] - chore(Order/Defs): golf multiple lemmas in `LinearOrder` using `grind`

### PR DESCRIPTION
**Pull request by euprunin**
---
<details>
<summary>Show trace profiling of <code>lt_trichotomy</code>: <10 ms before, <10 ms after  🎉</summary>

### Trace profiling of `lt_trichotomy` before PR 30897
```diff
diff --git a/Mathlib/Order/Defs/LinearOrder.lean b/Mathlib/Order/Defs/LinearOrder.lean
index 7b6f0d5598..12b8e67c46 100644
--- a/Mathlib/Order/Defs/LinearOrder.lean
+++ b/Mathlib/Order/Defs/LinearOrder.lean
@@ -87,6 +87,7 @@ lemma lt_of_not_ge (h : ¬b ≤ a) : a < b := lt_of_le_not_ge (le_of_not_ge h) h
 
 @[deprecated (since := "2025-05-11")] alias le_of_not_le := le_of_not_ge
 
+set_option trace.profiler true in
 lemma lt_trichotomy (a b : α) : a < b ∨ a = b ∨ b < a := by
   grind [le_total, Decidable.lt_or_eq_of_le]
 
```
```
✔ [61/61] Built Mathlib.Order.Defs.LinearOrder (524ms)
Build completed successfully (61 jobs).
```

### Trace profiling of `lt_trichotomy` after PR 30897
```diff
diff --git a/Mathlib/Order/Defs/LinearOrder.lean b/Mathlib/Order/Defs/LinearOrder.lean
index 7b6f0d5598..ea19594593 100644
--- a/Mathlib/Order/Defs/LinearOrder.lean
+++ b/Mathlib/Order/Defs/LinearOrder.lean
@@ -87,8 +87,9 @@ lemma lt_of_not_ge (h : ¬b ≤ a) : a < b := lt_of_le_not_ge (le_of_not_ge h) h
 
 @[deprecated (since := "2025-05-11")] alias le_of_not_le := le_of_not_ge
 
+set_option trace.profiler true in
 lemma lt_trichotomy (a b : α) : a < b ∨ a = b ∨ b < a := by
-  grind [le_total, Decidable.lt_or_eq_of_le]
+  grind
 
 lemma le_of_not_gt (h : ¬b < a) : a ≤ b :=
   match lt_trichotomy a b with
```
```
✔ [61/61] Built Mathlib.Order.Defs.LinearOrder (522ms)
Build completed successfully (61 jobs).
```
</details>

---
<details>
<summary>Show trace profiling of <code>lt_or_gt_of_ne</code>: <10 ms before, <10 ms after  🎉</summary>

### Trace profiling of `lt_or_gt_of_ne` before PR 30897
```diff
diff --git a/Mathlib/Order/Defs/LinearOrder.lean b/Mathlib/Order/Defs/LinearOrder.lean
index 7b6f0d5598..f6b239762a 100644
--- a/Mathlib/Order/Defs/LinearOrder.lean
+++ b/Mathlib/Order/Defs/LinearOrder.lean
@@ -107,6 +107,7 @@ lemma le_or_gt (a b : α) : a ≤ b ∨ b < a := (lt_or_ge b a).symm
 
 @[deprecated (since := "2025-05-11")] alias le_or_lt := le_or_gt
 
+set_option trace.profiler true in
 lemma lt_or_gt_of_ne (h : a ≠ b) : a < b ∨ b < a := by simpa [h] using lt_trichotomy a b
 
 lemma ne_iff_lt_or_gt : a ≠ b ↔ a < b ∨ b < a := ⟨lt_or_gt_of_ne, (Or.elim · ne_of_lt ne_of_gt)⟩
```
```
✔ [61/61] Built Mathlib.Order.Defs.LinearOrder (526ms)
Build completed successfully (61 jobs).
```

### Trace profiling of `lt_or_gt_of_ne` after PR 30897
```diff
diff --git a/Mathlib/Order/Defs/LinearOrder.lean b/Mathlib/Order/Defs/LinearOrder.lean
index 7b6f0d5598..32b1b7866a 100644
--- a/Mathlib/Order/Defs/LinearOrder.lean
+++ b/Mathlib/Order/Defs/LinearOrder.lean
@@ -107,7 +107,9 @@ lemma le_or_gt (a b : α) : a ≤ b ∨ b < a := (lt_or_ge b a).symm
 
 @[deprecated (since := "2025-05-11")] alias le_or_lt := le_or_gt
 
-lemma lt_or_gt_of_ne (h : a ≠ b) : a < b ∨ b < a := by simpa [h] using lt_trichotomy a b
+set_option trace.profiler true in
+lemma lt_or_gt_of_ne (h : a ≠ b) : a < b ∨ b < a := by
+  grind
 
 lemma ne_iff_lt_or_gt : a ≠ b ↔ a < b ∨ b < a := ⟨lt_or_gt_of_ne, (Or.elim · ne_of_lt ne_of_gt)⟩
 
```
```
✔ [61/61] Built Mathlib.Order.Defs.LinearOrder (523ms)
Build completed successfully (61 jobs).
```
</details>

---
<details>
<summary>Show trace profiling of <code>min_le_left</code>: <10 ms before, 11 ms after </summary>

### Trace profiling of `min_le_left` before PR 30897
```diff
diff --git a/Mathlib/Order/Defs/LinearOrder.lean b/Mathlib/Order/Defs/LinearOrder.lean
index 7b6f0d5598..7df1c3ca17 100644
--- a/Mathlib/Order/Defs/LinearOrder.lean
+++ b/Mathlib/Order/Defs/LinearOrder.lean
@@ -131,6 +131,7 @@ lemma min_def (a b : α) : min a b = if a ≤ b then a else b := LinearOrder.min
 @[grind =]
 lemma max_def (a b : α) : max a b = if a ≤ b then b else a := LinearOrder.max_def a b
 
+set_option trace.profiler true in
 lemma min_le_left (a b : α) : min a b ≤ a := by
   if h : a ≤ b
   then simp [min_def, if_pos h, le_refl]
```
```
✔ [61/61] Built Mathlib.Order.Defs.LinearOrder (522ms)
Build completed successfully (61 jobs).
```

### Trace profiling of `min_le_left` after PR 30897
```diff
diff --git a/Mathlib/Order/Defs/LinearOrder.lean b/Mathlib/Order/Defs/LinearOrder.lean
index 7b6f0d5598..5b358180c5 100644
--- a/Mathlib/Order/Defs/LinearOrder.lean
+++ b/Mathlib/Order/Defs/LinearOrder.lean
@@ -131,10 +131,9 @@ lemma min_def (a b : α) : min a b = if a ≤ b then a else b := LinearOrder.min
 @[grind =]
 lemma max_def (a b : α) : max a b = if a ≤ b then b else a := LinearOrder.max_def a b
 
+set_option trace.profiler true in
 lemma min_le_left (a b : α) : min a b ≤ a := by
-  if h : a ≤ b
-  then simp [min_def, if_pos h, le_refl]
-  else simpa [min_def, if_neg h] using le_of_not_ge h
+  grind
 
 lemma min_le_right (a b : α) : min a b ≤ b := by
   if h : a ≤ b
```
```
ℹ [61/61] Built Mathlib.Order.Defs.LinearOrder (537ms)
info: Mathlib/Order/Defs/LinearOrder.lean:135:0: [Elab.async] [0.011028] elaborating proof of min_le_left
  [Elab.definition.value] [0.010868] min_le_left
    [Elab.step] [0.010797] grind
      [Elab.step] [0.010791] grind
        [Elab.step] [0.010784] grind
Build completed successfully (61 jobs).
```
</details>

---
<details>
<summary>Show trace profiling of <code>min_assoc</code>: <10 ms before, 19 ms after </summary>

### Trace profiling of `min_assoc` before PR 30897
```diff
diff --git a/Mathlib/Order/Defs/LinearOrder.lean b/Mathlib/Order/Defs/LinearOrder.lean
index 7b6f0d5598..5d78975606 100644
--- a/Mathlib/Order/Defs/LinearOrder.lean
+++ b/Mathlib/Order/Defs/LinearOrder.lean
@@ -163,6 +163,7 @@ lemma eq_min (h₁ : c ≤ a) (h₂ : c ≤ b) (h₃ : ∀ {d}, d ≤ a → d 
 lemma min_comm (a b : α) : min a b = min b a :=
   eq_min (min_le_right a b) (min_le_left a b) fun h₁ h₂ => le_min h₂ h₁
 
+set_option trace.profiler true in
 lemma min_assoc (a b c : α) : min (min a b) c = min a (min b c) := by
   apply eq_min
   · apply le_trans (min_le_left ..) (min_le_left ..)
```
```
✔ [61/61] Built Mathlib.Order.Defs.LinearOrder (531ms)
Build completed successfully (61 jobs).
```

### Trace profiling of `min_assoc` after PR 30897
```diff
diff --git a/Mathlib/Order/Defs/LinearOrder.lean b/Mathlib/Order/Defs/LinearOrder.lean
index 7b6f0d5598..abb242c8ee 100644
--- a/Mathlib/Order/Defs/LinearOrder.lean
+++ b/Mathlib/Order/Defs/LinearOrder.lean
@@ -163,15 +163,9 @@ lemma eq_min (h₁ : c ≤ a) (h₂ : c ≤ b) (h₃ : ∀ {d}, d ≤ a → d 
 lemma min_comm (a b : α) : min a b = min b a :=
   eq_min (min_le_right a b) (min_le_left a b) fun h₁ h₂ => le_min h₂ h₁
 
+set_option trace.profiler true in
 lemma min_assoc (a b c : α) : min (min a b) c = min a (min b c) := by
-  apply eq_min
-  · apply le_trans (min_le_left ..) (min_le_left ..)
-  · apply le_min
-    · apply le_trans (min_le_left ..) (min_le_right ..)
-    · apply min_le_right
-  · intro d h₁ h₂; apply le_min
-    · apply le_min h₁; apply le_trans h₂; apply min_le_left
-    · apply le_trans h₂; apply min_le_right
+  grind
 
 lemma min_left_comm (a b c : α) : min a (min b c) = min b (min a c) := by
   rw [← min_assoc, min_comm a, min_assoc]
```
```
ℹ [61/61] Built Mathlib.Order.Defs.LinearOrder (521ms)
info: Mathlib/Order/Defs/LinearOrder.lean:167:0: [Elab.async] [0.019168] elaborating proof of min_assoc
  [Elab.definition.value] [0.018952] min_assoc
    [Elab.step] [0.018863] grind
      [Elab.step] [0.018857] grind
        [Elab.step] [0.018848] grind
Build completed successfully (61 jobs).
```
</details>

---
<details>
<summary>Show trace profiling of <code>min_left_comm</code>: <10 ms before, 19 ms after </summary>

### Trace profiling of `min_left_comm` before PR 30897
```diff
diff --git a/Mathlib/Order/Defs/LinearOrder.lean b/Mathlib/Order/Defs/LinearOrder.lean
index 7b6f0d5598..331ed67051 100644
--- a/Mathlib/Order/Defs/LinearOrder.lean
+++ b/Mathlib/Order/Defs/LinearOrder.lean
@@ -173,6 +173,7 @@ lemma min_assoc (a b c : α) : min (min a b) c = min a (min b c) := by
     · apply le_min h₁; apply le_trans h₂; apply min_le_left
     · apply le_trans h₂; apply min_le_right
 
+set_option trace.profiler true in
 lemma min_left_comm (a b c : α) : min a (min b c) = min b (min a c) := by
   rw [← min_assoc, min_comm a, min_assoc]
 
```
```
✔ [61/61] Built Mathlib.Order.Defs.LinearOrder (529ms)
Build completed successfully (61 jobs).
```

### Trace profiling of `min_left_comm` after PR 30897
```diff
diff --git a/Mathlib/Order/Defs/LinearOrder.lean b/Mathlib/Order/Defs/LinearOrder.lean
index 7b6f0d5598..dc93dd47af 100644
--- a/Mathlib/Order/Defs/LinearOrder.lean
+++ b/Mathlib/Order/Defs/LinearOrder.lean
@@ -173,8 +173,9 @@ lemma min_assoc (a b c : α) : min (min a b) c = min a (min b c) := by
     · apply le_min h₁; apply le_trans h₂; apply min_le_left
     · apply le_trans h₂; apply min_le_right
 
+set_option trace.profiler true in
 lemma min_left_comm (a b c : α) : min a (min b c) = min b (min a c) := by
-  rw [← min_assoc, min_comm a, min_assoc]
+  grind
 
 @[simp] lemma min_self (a : α) : min a a = a := by simp [min_def]
 
```
```
ℹ [61/61] Built Mathlib.Order.Defs.LinearOrder (522ms)
info: Mathlib/Order/Defs/LinearOrder.lean:177:0: [Elab.async] [0.019701] elaborating proof of min_left_comm
  [Elab.definition.value] [0.019485] min_left_comm
    [Elab.step] [0.019416] grind
      [Elab.step] [0.019411] grind
        [Elab.step] [0.019404] grind
Build completed successfully (61 jobs).
```
</details>

---
<details>
<summary>Show trace profiling of <code>compare_lt_iff_lt</code>: 23 ms before, 14 ms after  🎉</summary>

### Trace profiling of `compare_lt_iff_lt` before PR 30897
```diff
diff --git a/Mathlib/Order/Defs/LinearOrder.lean b/Mathlib/Order/Defs/LinearOrder.lean
index 7b6f0d5598..a38e430f94 100644
--- a/Mathlib/Order/Defs/LinearOrder.lean
+++ b/Mathlib/Order/Defs/LinearOrder.lean
@@ -223,6 +223,7 @@ lemma max_lt (h₁ : a < c) (h₂ : b < c) : max a b < c := by
 
 section Ord
 
+set_option trace.profiler true in
 lemma compare_lt_iff_lt : compare a b = .lt ↔ a < b := by
   rw [LinearOrder.compare_eq_compareOfLessAndEq, compareOfLessAndEq]
   split_ifs <;> simp only [*, lt_irrefl]
```
```
ℹ [61/61] Built Mathlib.Order.Defs.LinearOrder (521ms)
info: Mathlib/Order/Defs/LinearOrder.lean:227:0: [Elab.async] [0.023362] elaborating proof of compare_lt_iff_lt
  [Elab.definition.value] [0.022981] compare_lt_iff_lt
    [Elab.step] [0.022850] 
          rw [LinearOrder.compare_eq_compareOfLessAndEq, compareOfLessAndEq]
          split_ifs <;> simp only [*, lt_irrefl]
      [Elab.step] [0.022844] 
            rw [LinearOrder.compare_eq_compareOfLessAndEq, compareOfLessAndEq]
            split_ifs <;> simp only [*, lt_irrefl]
        [Elab.step] [0.021754] split_ifs <;> simp only [*, lt_irrefl]
          [Elab.step] [0.021740] focus
                split_ifs
                with_annotate_state"<;>" skip
                all_goals simp only [*, lt_irrefl]
            [Elab.step] [0.021735] 
                  split_ifs
                  with_annotate_state"<;>" skip
                  all_goals simp only [*, lt_irrefl]
              [Elab.step] [0.021730] 
                    split_ifs
                    with_annotate_state"<;>" skip
                    all_goals simp only [*, lt_irrefl]
                [Elab.step] [0.018987] split_ifs
Build completed successfully (61 jobs).
```

### Trace profiling of `compare_lt_iff_lt` after PR 30897
```diff
diff --git a/Mathlib/Order/Defs/LinearOrder.lean b/Mathlib/Order/Defs/LinearOrder.lean
index 7b6f0d5598..a97d025c43 100644
--- a/Mathlib/Order/Defs/LinearOrder.lean
+++ b/Mathlib/Order/Defs/LinearOrder.lean
@@ -223,9 +223,10 @@ lemma max_lt (h₁ : a < c) (h₂ : b < c) : max a b < c := by
 
 section Ord
 
+set_option trace.profiler true in
 lemma compare_lt_iff_lt : compare a b = .lt ↔ a < b := by
   rw [LinearOrder.compare_eq_compareOfLessAndEq, compareOfLessAndEq]
-  split_ifs <;> simp only [*, lt_irrefl]
+  grind
 
 lemma compare_gt_iff_gt : compare a b = .gt ↔ b < a := by
   rw [LinearOrder.compare_eq_compareOfLessAndEq, compareOfLessAndEq]
```
```
ℹ [61/61] Built Mathlib.Order.Defs.LinearOrder (518ms)
info: Mathlib/Order/Defs/LinearOrder.lean:227:0: [Elab.async] [0.014062] elaborating proof of compare_lt_iff_lt
  [Elab.definition.value] [0.013827] compare_lt_iff_lt
    [Elab.step] [0.013735] 
          rw [LinearOrder.compare_eq_compareOfLessAndEq, compareOfLessAndEq]
          grind
      [Elab.step] [0.013730] 
            rw [LinearOrder.compare_eq_compareOfLessAndEq, compareOfLessAndEq]
            grind
        [Elab.step] [0.012536] grind
Build completed successfully (61 jobs).
```
</details>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Thanks! Does local profiling (e.g. for the whole file) report any meaningful slowdown?

**Comment by ghost** [comment]
!bench

**Comment by euprunin** [comment]
@grunweg I've now added trace profiling results to the PR description. Looks good!

File: Mathlib/Order/Defs/LinearOrder.lean [hunk 1]
```diff
@@ -107,7 +107,8 @@ lemma le_or_gt (a b : α) : a ≤ b ∨ b < a := (lt_or_ge b a).symm
 
 @[deprecated (since := "2025-05-11")] alias le_or_lt := le_or_gt
 
-lemma lt_or_gt_of_ne (h : a ≠ b) : a < b ∨ b < a := by simpa [h] using lt_trichotomy a b
+lemma lt_or_gt_of_ne (h : a ≠ b) : a < b ∨ b < a := by
+  grind
```
Comment (grunweg) [inline Mathlib/Order/Defs/LinearOrder.lean]:
```suggestion
lemma lt_or_gt_of_ne (h : a ≠ b) : a < b ∨ b < a := by grind
```

File: Mathlib/Order/Defs/LinearOrder.lean [hunk 2]
```diff
@@ -132,27 +133,19 @@ lemma min_def (a b : α) : min a b = if a ≤ b then a else b := LinearOrder.min
 lemma max_def (a b : α) : max a b = if a ≤ b then b else a := LinearOrder.max_def a b
 
 lemma min_le_left (a b : α) : min a b ≤ a := by
-  if h : a ≤ b
-  then simp [min_def, if_pos h, le_refl]
-  else simpa [min_def, if_neg h] using le_of_not_ge h
+  grind
```
Comment (grunweg) [inline Mathlib/Order/Defs/LinearOrder.lean]: Can the `order` tactic prove these? If so, is it faster than grind? (I think that would be an even better solution.)

File: Mathlib/Order/Defs/LinearOrder.lean [hunk 3]
```diff
@@ -132,27 +133,19 @@ lemma min_def (a b : α) : min a b = if a ≤ b then a else b := LinearOrder.min
...
 
 lemma min_le_right (a b : α) : min a b ≤ b := by
-  if h : a ≤ b
-  then simpa [min_def, if_pos h] using h
-  else simp [min_def, if_neg h, le_refl]
+  grind
```
Comment (grunweg) [inline Mathlib/Order/Defs/LinearOrder.lean]: Likewise for this lemma and the ones below.

**Review by grunweg — COMMENTED** [review]
Thanks! I have one last question: can the `order` tactic also prove these? How does it compare to grind performance-wise? (If equal or better, I would prefer order for readability reasons.)

File: Mathlib/Order/Defs/LinearOrder.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/Order/Defs/LinearOrder.lean]: Fixed!
